US04748171
7β-[(Z)-2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid (319 mg) was suspended in methylene chloride (4 ml), followed by an addition of N-methyl-N-(trimethylsilyl)trifluoroacetamide (877 μl). The resulting mixture was stirred at room temperature for 1 hour. After ice-cooling, iodotrimethylsilane (268 μl) was added and the resulting mixture was stirred for 15 minutes. The reaction mixture was concentrated under reduced pressure to obtain the silylated derivative of 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-iodomethyl-3-cephem-4-carboxylic acid.

reactant | 7β-[(Z)-2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid | 319 mg | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O)=N/OC | C15H16N6O7S2
reactant | N-methyl-N-(trimethylsilyl)trifluoroacetamide | 877 μl | CN(C(C(F)(F)F)=O)[Si](C)(C)C | C6H12F3NOSi
reactant | iodotrimethylsilane | 268 μl | I[Si](C)(C)C | C3H9ISi
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-iodomethyl-3-cephem-4-carboxylic acid | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CI)C(=O)O)C1=O)=N/OC | C13H13IN6O5S2
